US05432169
To a solution of 0.90 g of 3β-(2-hydroxyethylthio)-17β-(3-furyl)-5β-androstan-14β-ol, in 9 ml of dry pyridine, 0.64 g of tosylchloride were added. After 5 hrs 10 ml of water and 50 ml of ethyl acetate were added. The organic phase was washed with water, dried over anhydrous sodium sulfate to give 1.2 g of 3β-(2-tosyioxyethylthio)-17β-(3-furyl)-5β-androstan-14β-ol as a colourless oil.

reactant | 3β-(2-hydroxyethylthio)-17β-(3-furyl)-5β-androstan-14β-ol | 0.90 g | OCCS[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C25H38O3S
reactant | tosylchloride | 0.64 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | 10 ml | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
product | 3β-(2-tosyioxyethylthio)-17β-(3-furyl)-5β-androstan-14β-ol | 1.2 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCS[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C1=COC=C1)O | C32H44O5S2
